US06211199B1
57.1 Synthesis of 1-(3,4-dimethoxy-5-hydroxybenzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine
Combine 3-phenyl-3-(2-hydroxyethyl)pyrrolidine (0.50 g, 2.7 mmol) (prepared by extraction from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt) and dichloromethane (25 mL). Add 3,4-dimethoxy-5-hydroxybenzoic acid (0.55 g, 2.78 mmol), 1-hydroxybenzotriazole hydrate (0.4 g, 2.9 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.56 g, 2.9 mmol). After 18 hours, dilute the reaction mixture with dichloromethane and extract with saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give residue. Chromatograph the residue on silica gel eluting with methanol/dichloromethane/concentrated aqueous ammonia 1/10/0.1 to give the title compound.

reactant | 3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 2.7 mmol, 0.50 g | C1(=CC=CC=C1)C1(CNCC1)CCO | C12H17NO
reactant | 3,4-dimethoxy-5-hydroxybenzoic acid | 2.78 mmol, 0.55 g | COC=1C=C(C(=O)O)C=C(C1OC)O | C9H10O5
reactant | 1-hydroxybenzotriazole hydrate | 2.9 mmol, 0.4 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.9 mmol, 0.56 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
product | 1-(3,4-dimethoxy-5-hydroxybenzoyl)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCO)C2=CC=CC=C2)C=C(C1OC)O | C21H25NO5
